US07109211B2
Step 1. Preparation of Ethyl 2,6-bis(trifluoromethyl)-4-oxo-4H-1-benzopyran-3-carboxylate.
To a stirred solution of ethyl 4,4,4-trifluoroacetoacetate (3.22 mL, 4.06 g, 22.07 mmol) in toluene (100 mL) was added portion-wise sodium hydride (0.971 g, of 60% oil dispersion reagent, 22.07 mmol) causing gas evolution. After gas evolution has subsided, 2-fluoro-5-(trifluoromethyl)benzoyl chloride (5.00 g, 22.07 mmol) was added. The reaction was stirred at room temperature for 24 hours, then heated to 105° C. for 24 hours. After cooling to room temperature, the reaction was diluted with diethyl ether and the resulting solution was washed with H2O and brine, dried over MgSO4, filtered and concentrated in vacuo yielding a slightly sticky white solid. This solid was triturated with hexanes yielding the desired ester(3.05 g, 39%) as a white powder: mp 116–120.1° C. 1H NMR (CDCl3/300 MHz) 8.52 (d, 2H, J=1.6 Hz), 8.03 (dd, 1H, J=8.9, 2.2 Hz), 7.71 (d, 1H, J=8.9 Hz), 4.48 (q, 2H, J=7.3 Hz), 1.39 (t, 3H, J=7.3 Hz). FABLRMS m/z 355 (M+H). Anal. Calc'd for C14H8F6O4: C, 47.45; H, 2.28. Found: C, 47.59; H, 2.43.

reactant | ethyl 4,4,4-trifluoroacetoacetate | 22.07 mmol, 3.22 mL, 4.06 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | sodium hydride | 22.07 mmol, 0.971 g | [H-].[Na+]
reactant | 2-fluoro-5-(trifluoromethyl)benzoyl chloride | 22.07 mmol, 5.00 g | FC1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F | C8H3ClF4O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | Ethyl 2,6-bis(trifluoromethyl)-4-oxo-4H-1-benzopyran-3-carboxylate | FC(C=1OC2=C(C(C1C(=O)OCC)=O)C=C(C=C2)C(F)(F)F)(F)F | C14H8F6O4
